US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-((1-(pyrimidin-2-yl)piperidin-4-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared using 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1, Ph3P (110 mg, 0.42 mmol) and (1-(pyrimidin-2-yl)piperdin-4-yl-)methanol (28 mg, 0.14 mmol) in THF (1.0 mL) and by following the procedure described in Example 2. The title compound, 7,8-bis(4-chlorophenyl)-2-((1-(pyrimidin-2-yl)piperidin-4-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (31 mg, 42%) was obtained as yellow powder. MS M+H=532; 1H NMR (CDCl3) δ 8.28 (2H, d, J=5.0 Hz), 8.16 (1H, s), 7.28-7.36 (6H, m), 7.11 (2H, d, J=10.0 Hz), 6.44 (1H, t, J=5.0 Hz), 4.75 (2H, d, J=15.0 Hz), 3.96 (2H, d, J=10.0 Hz), 2.85 (2H, m), 2.20-2.30 (1H, m), 1.74 (2H, d, J=10.0 Hz), 1.30-1.40 (2H, m).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | Ph3P | 0.42 mmol, 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (1-(pyrimidin-2-yl)piperdin-4-yl-)methanol | 0.14 mmol, 28 mg | N1=C(N=CC=C1)N1CCC(CC1)CO | C10H15N3O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-2-((1-(pyrimidin-2-yl)piperidin-4-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 31 mg, 42% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC2CCN(CC2)C2=NC=CC=N2)=O)C2=CC=C(C=C2)Cl | C27H23Cl2N7O
